US05981533
In 1 ml of toluene, 57.3 mg (0.25 mmol) of 5-amino-3-(4-nitro-phenyl)-1H-pyrazole-4-carbonitrile and 79.3 μl of N,N-dimethylformamide dibenzylacetal are boiled overnight. Filtering of the suspension and washing with hexane yield N'-[3-(4-nitro-phenyl)-4-cyano-1H-pyrazol-5-yl]-N,N-dimethylformamidine; TLC: Rf =0.15 (ethyl acetate:hexane=2:1); TRet (Grad20-100)=8.8.

reactant | 5-amino-3-(4-nitro-phenyl)-1H-pyrazole-4-carbonitrile | 0.25 mmol, 57.3 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)[N+](=O)[O-])C#N | C10H7N5O2
reactant | N,N-dimethylformamide dibenzylacetal | 79.3 μl | C(C1=CC=CC=C1)OC(N(C)C)OCC1=CC=CC=C1 | C17H21NO2
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | N'-[3-(4-nitro-phenyl)-4-cyano-1H-pyrazol-5-yl]-N,N-dimethylformamidine | [N+](=O)([O-])C1=CC=C(C=C1)C1=NNC(=C1C#N)N=CN(C)C | C13H12N6O2
